US07807672B2
Preparation of 4-phenylethynyl-piperidine-1-carboxylic acid tert-butyl ester
Iodobenzene (135 μl, 1.2 mmols), 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (209 mg, 1 mmols) and triethylamine (167 μl, 1.2 mmols) were dissolved in acetonitrile (6 ml). Dichlorobis(triphenylphosphine)palladium(II) (35 mg, 0.05 mmols) and Cul (10 mg, 0.05 mmols) were added, and reaction mixture was stirred at room temperature overnight and continued to stir at 50 C. for two more hours before partitioning between ethyl acetate and water. Organic layer was isolated, washed with 1 N HCl, brine and dried (MgSO4). Solvents were removed and residue was purified by column chromatography on silica gel using solutions of ethyl acetate in hexanes (1:4; 1:2) to yield the title compound (74 mg). LCMS m/e (230, M−t-Bu+2H)

reactant | Iodobenzene | 1.2 mmols, 135 μl | IC1=CC=CC=C1 | C6H5I
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 1 mmols, 209 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | triethylamine | 1.2 mmols, 167 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.05 mmols, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-phenylethynyl-piperidine-1-carboxylic acid tert-butyl ester | 74 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC1=CC=CC=C1 | C18H23NO2
